US06982348B2
To a solution of (4RS,5SR)-4-((4-chloro-3-(1,1,2,2-tetrafluoroethoxy)phenyl)methyl)-5-(4-fluorophenyl)-1,3-oxazolidin-2-one (1.42 g, 3.37 mmol) in ethanol (20 ml) was added 8N aqueous sodium hydroxide solution (2.1 ml, 16.9 mmol), and the mixture was heated under reflux for 3 hrs. The reaction solution was concentrated, diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give (1RS,2SR)-2-amino-3-(4-chloro-3-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-1-propanol (1.17 g, 88%).

reactant | (4RS,5SR)-4-((4-chloro-3-(1,1,2,2-tetrafluoroethoxy)phenyl)methyl)-5-(4-fluorophenyl)-1,3-oxazolidin-2-one | 3.37 mmol, 1.42 g | ClC1=C(C=C(C=C1)CC1NC(OC1C1=CC=C(C=C1)F)=O)OC(C(F)F)(F)F | C18H13ClF5NO3
reactant | sodium hydroxide | 16.9 mmol, 8N, 2.1 ml | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (1RS,2SR)-2-amino-3-(4-chloro-3-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-1-propanol | 1.17 g, 88% | NC(C(O)C1=CC=C(C=C1)F)CC1=CC(=C(C=C1)Cl)OC(C(F)F)(F)F | C17H15ClF5NO2
